US06479670B1
4.1. Preparation of (E)-4-[2-(5-ethoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepin-8-yl)-vinyl]-benzoic acid
406 mg (0.99 mmol) of (E)-4-[2-(5-ethoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepin-8-yl)-vinyl]-benzoic acid methyl ester was dissolved in 4 ml of THF/ethanol=1/1 and treated with 1.32 ml of 3N NaOH(4 eq). The reaction flask was kept in the dark and stirring continued for 18 h at room temperature. The mixture was then poured onto crushed ice/diluted HCl, extracted twice with ethylacetate, the organic phase was washed with a small amount of water, dried over magnesium sulfate, filtrated and the solvent evaporated. Crystallization of the residue from hexane/ethylacetate (8/2) yielded 337 mg of the title compound as white crystals of m.p. 186-187° C.

reactant | (E)-4-[2-(5-ethoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepin-8-yl)-vinyl]-benzoic acid methyl ester | 0.99 mmol, 406 mg | COC(C1=CC=C(C=C1)\C=C\C=1C=CC2=C(SCCCC2(C)COCC)C1)=O | C24H28O3S
reactant | NaOH | 3N, 1.32 ml, 4 eq | [OH-].[Na+]
solvent | THF ethanol | 4 ml | C1CCOC1.C(C)O
product | (E)-4-[2-(5-ethoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepin-8-yl)-vinyl]-benzoic acid | 337 mg | C(C)OCC1(C2=C(SCCC1)C=C(C=C2)/C=C/C2=CC=C(C(=O)O)C=C2)C | C23H26O3S
